US07396958B2
N-[4-chloro-2-(2-methoxybenzyl)phenyl]-3,4-dimethoxybenzenesulfonamide
To 0.57 g of (2-amino-5-chlorophenyl)(2-methoxyphenyl)methane dissolved in 5 ml of THF are successively added 0.2 ml of pyridine and 0.547 g of 3,4-dimethoxybenzenesulfonyl chloride, and the mixture is left for 18 hours at room temperature. The reaction medium is taken up in ethyl acetate and washed with water. The organic phase is dried over anhydrous sodium sulfate and concentrated. The residue is chromatographed on a column of silica gel, eluting with dichloromethane, to give 0.832 g of the expected product.

reactant | (2-amino-5-chlorophenyl)(2-methoxyphenyl)methane | 0.57 g | NC1=C(C=C(C=C1)Cl)CC1=C(C=CC=C1)OC | C14H14ClNO
reactant | pyridine | 0.2 ml | N1=CC=CC=C1 | C5H5N
reactant | 3,4-dimethoxybenzenesulfonyl chloride | 0.547 g | COC=1C=C(C=CC1OC)S(=O)(=O)Cl | C8H9ClO4S
solvent | THF | 5 ml | C1CCOC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | N-[4-chloro-2-(2-methoxybenzyl)phenyl]-3,4-dimethoxybenzenesulfonamide | 0.832 g | ClC1=CC(=C(C=C1)NS(=O)(=O)C1=CC(=C(C=C1)OC)OC)CC1=C(C=CC=C1)OC | C22H22ClNO5S
